US08211908B2
To a solution of 1.1 g of N-(2-chloro-5-fluoropyridin-3-yl)-2-methylacrylamide in 10 mL of N,N-dimethylformamide, 1.5 mL of triethylamine and 0.13 g of bis(tri-tert-butylphosphine)palladium(0) were added, and the mixture was stirred at 110° C. for 3 hours 40 minutes under a nitrogen flow. Thereto was further added 0.13 g of bis(tri-tert-butylphosphine)palladium(0), and the mixture was stirred for 2 hours. Thereto was further added 0.13 g of bis(tri-tert-butylphosphine)palladium(0), and the mixture was stirred for 2 hours. The reaction mixture was cooled to room temperature, the solvent was then distilled off under reduced pressure, and diisopropyl ether and ethyl acetate were added to the resultant residue, the solid was filtered off, and washed with ethyl acetate, to the solid thus obtained, water, chloroform and methanol were added, the organic layer was separated and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant residue, diisopropyl ether was added, and the solid was filtered off to obtain 0.25 g of 7-fluoro-4-methyl-1,5-naphthyridin-2(1H)-one as a light brown solid.

reactant | N-(2-chloro-5-fluoropyridin-3-yl)-2-methylacrylamide | 1.1 g | ClC1=NC=C(C=C1NC(C(=C)C)=O)F | C9H8ClFN2O
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.13 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.13 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.13 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 7-fluoro-4-methyl-1,5-naphthyridin-2(1H)-one | 0.25 g | FC1=CN=C2C(=CC(NC2=C1)=O)C | C9H7FN2O
